US07241798B2
In a round bottomed flask were combined the starting material racemic 2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid (0.36 g, 1.0 mmol) and tert-butyl alcohol (5 mL). Triethylamine (0.28 mL, 2.0 mmol) and diphenylphosphoryl azide (0.3 mL, 1.4 mmol) were added and the reaction was placed in an 83° C. oil bath and allowed to reflux gently under nitrogen for 16 hours. Most of the tert-butyl alcohol was removed at reduced pressure and the residue was partitioned between saturated sodium bicarbonate solution and EtOAc. The organics were washed with brine, dried over calcium sulfate, filtered and concentrated to an oil which was flash chromatographed on silica gel using 10%-20% ETOAc/Hexanes to give [2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-carbamic acid tert-butyl ester (0.14 g, 34%).

reactant | racemic 2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid | 1.0 mmol, 0.36 g | C1(=CC=CC=C1)C1C2(CC2CN1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C19H19NO4S
reactant | Triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.4 mmol, 0.3 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl alcohol | 5 mL | C(C)(C)(C)O | C4H10O
product | [2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-carbamic acid tert-butyl ester | 0.14 g, 34% | C(C)(C)(C)OC(NC12C(N(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C23H28N2O4S
